US05296493
b: N-benzyl-4-fluoroaniline
A solution of 4-fluoroaniline (4.7 ml, 50 mmol), benzaldehyde (5.3 g, 50 mmol) and one crystal p-toluene-sulfonic acid is refluxed using a Dean-Stark® apparatus until no more water is collected and the mixture is concentrated in vacuo. The crude product is dissolved in 100 ml 96% ethanol and added sodium borohydride (4.0 g, 100 mmol) and stirred for 1 hour. Most of the ethanol is removed in vacuo and the residue is taken up in water and 15 g of potassium hydroxide in 50 ml water is added, causing the amine to crystallize. The product is recrystallized from methanol/water (in a ratio of 4 to 1) yielding the title compound as white crystals. Mp 38°-39° C.

reactant | 4-fluoroaniline | 50 mmol, 4.7 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | benzaldehyde | 50 mmol, 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium borohydride | 100 mmol, 4.0 g | [BH4-].[Na+]
solvent | water | O | H2O
product | N-benzyl-4-fluoroaniline | C(C1=CC=CC=C1)NC1=CC=C(C=C1)F | C13H12FN
